US07579341B2
15b) (R)-2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-1-carboxy-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 0.11 g (4.50 mmol) LiOH in 50 mL water was added to a solution of 1.80 g (2.94 mmol) (R)-2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-1-ethoxycarbonyl-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 50 mL THF and the reaction mixture was stirred for 3 h at RT. The THF was eliminated i. vac., diluted with 100 mL water and acidified with 1 M HCl. The substance precipitated was suction filtered, washed with 50 mL water and dried in the vacuum drying cupboard at 65° C.

reactant | LiOH | 4.50 mmol, 0.11 g | [Li+].[OH-]
reactant | (R)-2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-1-ethoxycarbonyl-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 2.94 mmol, 1.80 g | COC=1C=CC2=C(CCN(C(N2)=O)C2CCN(CC2)C(=O)O[C@H](CC2=CC(=C(C(=C2)C(F)(F)F)N)Cl)C(=O)OCC)C1 | C28H32ClF3N4O6
reactant | HCl | 1 M | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | (R)-2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-1-carboxy-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | COC=1C=CC2=C(CCN(C(N2)=O)C2CCN(CC2)C(=O)O[C@H](CC2=CC(=C(C(=C2)C(F)(F)F)N)Cl)C(=O)O)C1 | C26H28ClF3N4O6
